US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(pyridine-2-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyridin-2-yl-methanone and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.24 (s, 9H), 7.34-7.38 (m, 2H), 7.47 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.60 (m, 1H), 7.65-7.68 (m, 4H), 7.85 (d, 1H, J=8 Hz), 8.00 (td, 1H, J=7.6 Hz, 2 Hz), 8.71 (bd, 1H, J=4.8 Hz). MS: m/z 429.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyridin-2-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CC=C1 | C12H9ClN2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(pyridine-2-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CC=C1 | C22H21ClN2O3S
